* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\PMOS Bidirectional Switch Prototype 5.asc
* Generated by LTspice 24.1.4 for Windows.
R6 0 LOAD 5
V8 N001 0 48
V9 N008 0 PULSE(0 10 160m 1u 1u 20m 160m 2)
R12 N008 N007 220
R13 N008 0 10000
C4 N007 0 10p
R16 N003 N004 10000
R18 N004 N006 10000
D3 N004 N003 EDZV22B
R14 N002 N001 1
C1 N003 N004 10p
M1 N002 N004 N003 N003 Si7469DP
M2 LOAD N004 N003 N003 Si7469DP
M3 N006 N007 0 0 BSC047N08NS3
V1 N009 0 16.8
R2 N020 N019 220
R3 N020 0 10000
C2 N019 0 10p
R4 N011 N015 10000
R5 N015 N017 910
D1 N015 N011 EDZV13B
R7 N010 N009 1
C3 N011 N015 10p
M4 N010 N015 N011 N011 Si7469DP
M5 LOAD N015 N011 N011 Si7469DP
M6 N017 N019 0 0 BSC047N08NS3
R1 N015 0 10e5
R8 N004 0 10e5
C6 LOAD N015 1n
C7 LOAD N004 100p
V2 N020 0 PULSE(0 10 400m 1u 1u 20m 160m 2)
V3 N012 0 16.8
R9 N022 N021 220
R10 N022 0 10000
C8 N021 0 10p
R11 N014 N016 10000
R15 N016 N018 910
D2 N016 N014 EDZV13B
R17 N013 N012 1
C9 N014 N016 10p
M7 N013 N016 N014 N014 Si7469DP
M8 LOAD N016 N014 N014 Si7469DP
M9 N018 N021 0 0 BSC047N08NS3
R19 N016 0 10e5
C11 LOAD N016 1n
V4 N022 0 PULSE(0 10 460m 1u 1u 20m 160m 2)
C12 N005 0 50µ
R20 LOAD N005 10
D4 N005 LOAD D
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
.tran 600ms
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
.backanno
.end
