* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\PMOS Bidirectional Switch Prototype 5.asc
* Generated by LTspice 24.1.4 for Windows.
R6 0 LOAD 5
V8 N001 0 48
V9 N010 0 PULSE(0 10 160m 1u 1u 20m 160m 2)
R12 N010 N009 220
R13 N010 0 10000
C4 N009 0 10p
R16 N003 N005 10000
R18 N005 N008 10000
D3 N005 N003 EDZV22B
R14 N002 N001 1
C1 N003 N005 10p
M1 N002 N005 N003 N003 Si7469DP
M2 LOAD N005 N003 N003 Si7469DP
M3 N008 N009 0 0 BSC047N08NS3
V1 N011 0 16.8
R2 N022 N021 220
R3 N022 0 10000
C2 N021 0 10p
R4 N013 N017 10000
R5 N017 N019 910
D1 N017 N013 EDZV13B
R7 N012 N011 1
C3 N013 N017 10p
M4 N012 N017 N013 N013 Si7469DP
M5 LOAD N017 N013 N013 Si7469DP
M6 N019 N021 0 0 BSC047N08NS3
R1 N017 0 10e5
R8 N005 0 10e5
C6 LOAD N017 1n
C7 LOAD N005 100p
V2 N022 0 PULSE(0 10 400m 1u 1u 20m 160m 2)
V3 N014 0 16.8
R9 N024 N023 220
R10 N024 0 10000
C8 N023 0 10p
R11 N016 N018 10000
R15 N018 N020 910
R17 N015 N014 0.5
C9 N016 N018 10p
M7 N015 N018 N016 N016 Si7469DP
M8 LOAD N018 N016 N016 Si7469DP
M9 N020 N023 0 0 BSC047N08NS3
R19 N018 0 10e5
C11 LOAD N018 1n
V4 N024 0 PULSE(0 10 460m 1u 1u 20m 160m 2)
C12 N006 0 50µ
R20 LOAD N006 10
D4 N006 LOAD D
M10 NC_01 N007 N004 N004 Si7469DP
M11 NC_02 N007 N004 N004 Si7469DP
R21 N004 N007 10000
C5 N004 N007 10p
D5 N007 N004 EDZV13B
D2 N018 N016 EDZV13B
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
.tran 600ms
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
.backanno
.end
